US06617324B1
5-[N-(2-Propyl)-4-piperidyl]-4-(4-pyridyl)-3-[4-(trifluoromethyl)phenyl]pyrazole
To a solution of 5-(4-piperidyl)-4-(4-pyridyl)-3-[4-(trifluoromethyl)phenyl]pyrazole (Example C-83) (300 mg, 0.7 mmol) in 50 mL of acetone was added 1 mL of AcOH and NaBH(OAc), (15 g, 70.8 mmol). The mixture was warmed to reflux and was stirred for 5 days. The reaction mixture was poured onto 100 mL of 2.5 N NaOH and was extracted with ethyl acetate (2×100 mL). The extracts were combined and washed with brine (1×100 mL). The organic phase was dried over Na2SO4, filtered, and concentrated to afford the title compound: MS (M+H): 415 (base peak).

reactant | 5-(4-piperidyl)-4-(4-pyridyl)-3-[4-(trifluoromethyl)phenyl]pyrazole | 0.7 mmol, 300 mg | N1CCC(CC1)C1=C(C(=NN1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=NC=C1 | C20H19F3N4
reactant | AcOH | 1 mL | CC(=O)O | C2H4O2
reactant | NaOH | 2.5 N, 100 mL | [OH-].[Na+]
reactant | acetone | 50 mL | CC(=O)C | C3H6O
product | 5-[N-(2-Propyl)-4-piperidyl]-4-(4-pyridyl)-3-[4-(trifluoromethyl)phenyl]pyrazole | CC(C)N1CCC(CC1)C1=C(C(=NN1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=NC=C1 | C23H25F3N4
